US05654315
Sodium borohydride (260 mg) was added to a stirred solution of 3-[(biphenyl-4-ylmethylene)amino]quinuclidine (990 mg) in methanol (50 ml) and the reaction mixture stirred for 2 hours. The methanol was evaporated and the residue dissolved in 1M hydrochloric acid (12 ml). The aqueous solution was washed with diethyl ether (3×25 ml) before the addition of excess sodium hydroxide solution (density 1.35 g/cm3) to pH 14. The mixture was extracted with diethyl ether, the ether separated, dried (Na2SO4) and evaporated. An excess of saturated ethereal hydrogen chloride was added to precipitate a solid which was crystallised from methanol/ethyl acetate to give 3-[(biphenyl-4-ylmethyl)amino]quinuclidine (820 mg) as a colourless solid, m.p. 180°-181° C., microanalysis, found: C, 62.8; H, 7.3; N, 7.4%; C20H24N2 2HCl.H2O requires: C, 62.7; H, 7.3; N, 7.3%; NMR: ([CD3 ]2SO): 1.7-2.0(3H, m), 2.2-2.4(1H, m), 2.6(1H, s), 3.1-3.8(8H, m) 4.2(2H, s), 7.3-7.5(3H, m) and 7.6-7.8(6H, m); m/z 293 (M+H).

reactant | Sodium borohydride | 260 mg | [BH4-].[Na+]
reactant | 3-[(biphenyl-4-ylmethylene)amino]quinuclidine | 990 mg | C1(=CC=C(C=C1)C=NC1CN2CCC1CC2)C2=CC=CC=C2 | C20H22N2
solvent | methanol | 50 ml | CO | CH4O
product | 3-[(biphenyl-4-ylmethyl)amino]quinuclidine | 820 mg | C1(=CC=C(C=C1)CNC1CN2CCC1CC2)C2=CC=CC=C2 | C20H24N2
